US05270319
3-[[4,6-Bis-(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-N-methoxy-pyrrolidin-2-one
Triphenylphosphine (1.5 g, 5.7 mmol) is added to a solution of N-methoxy-3-bromopyrrolidin-2-one (Ikuta, et al. J. Med. Chem. 1984, 30, 1995) (1.0 g, 5.2 mmol) in THF (10 mL) and the mixture is warmed to reflux under an argon atmosphere for 12 hours. The reaction mixture is cooled in an ice bath and the solvent is decanted away from the resulting solid. The solid is added to a solution of triethylamine (0.93 g, 9.3 mmol) and 4,6-bis-(1,1-dimethylethyl)-5-hydroxypyrimidine-2-carboxaldehyde (0.97 g, 4.1 mmol) in ethanol (10 mL). The resulting mixture is warmed to reflux for 3 hours under an argon atmosphere. The mixture is cooled to room temperature, the EtOH is evaporated and the residue is partitioned between 50 mL EtOAc and 50 mL H2O. The organic extract is dried over MgSO4. The solvent is evaporated and the solid is recrystallized from Et2O/hexane. Yield of 3-[[4,6-bis-(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-N-methoxypyrrolidin-2-one=0.34 g (20%), mp 184°-186° C.

reactant | Triphenylphosphine | 5.7 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-methoxy-3-bromopyrrolidin-2-one | 5.2 mmol, 1.0 g | CON1C(C(CC1)Br)=O | C5H8BrNO2
reactant | triethylamine | 9.3 mmol, 0.93 g | C(C)N(CC)CC | C6H15N
reactant | 4,6-bis-(1,1-dimethylethyl)-5-hydroxypyrimidine-2-carboxaldehyde | 4.1 mmol, 0.97 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=O | C13H20N2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-[[4,6-Bis-(1,1-dimethylethyl)-5-hydroxy-2-pyrimidinyl]methylene]-N-methoxy-pyrrolidin-2-one | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C=C1C(N(CC1)OC)=O | C18H27N3O3
